US08791146B2
2-({[2-(4-Chlorophenyl)-1,3-oxazol-4-yl]methyl}sulphanyl)-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile
64 mg (0.224 mmol) of 4-(4-hydroxyphenyl)-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile together with 88 mg (0.269 mmol) of 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-oxazole and 57 mg (0.672 mmol) of sodium bicarbonate are stirred in 2 ml of DMF at room temperature overnight. The reaction mixture is purified by preparative HPLC (acetonitrile/water: 10:90→95:5, with 0.1% TFA added). This gives 44 mg (41% of theory) of the target compound.

reactant | 4-(4-hydroxyphenyl)-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile | 0.224 mmol, 64 mg | OC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)S)OC)C#N | C14H9N3O2S
reactant | 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-oxazole | 0.269 mmol, 88 mg | ClCC=1N=C(OC1)C1=CC=C(C=C1)Cl | C10H7Cl2NO
reactant | sodium bicarbonate | 0.672 mmol, 57 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-({[2-(4-Chlorophenyl)-1,3-oxazol-4-yl]methyl}sulphanyl)-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1OC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)O)C#N)OC | C24H15ClN4O3S
